US08466114B2
To a stirred solution of (3R,4S,5R,6R)-2-[3-(4-benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-4-bromo-phenyl]-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-ol (1.60 g, 1.72 mmol) in acetonitrile-dichloromethane mixture (3:1 mixture, 7 mL) was added triethylsilane (0.82 mL, 5.15 mmol) followed by boron trifluoride diethyletharate complex (0.42 mL, 3.43 mmol) at −30° C. After stirring for 2 h at 0° C., the reaction was quenched with aq. sodium bicarbonate (4 mL). The volatiles were evaporated under reduced pressure, and the resulting mixture was extracted with dichloromethane (2×20 mL). The organic layers were combined and washed with brine (3 mL), dried over sodium sulfate, then concentrated to a residue which was purified by column chromatography to furnish 4-benzyl-6-[2-bromo-5-((2S,3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine (1.10 g).

reactant | (3R,4S,5R,6R)-2-[3-(4-benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-4-bromo-phenyl]-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-ol | 1.72 mmol, 1.60 g | C(C1=CC=CC=C1)N1CCOC2=C1C=C(C=C2)CC=2C=C(C=CC2Br)C2(O[C@@H]([C@H]([C@@H]([C@H]2OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)COCC2=CC=CC=C2)O | C56H54BrNO7
reactant | triethylsilane | 5.15 mmol, 0.82 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | acetonitrile dichloromethane | 7 mL | C(C)#N.ClCCl
product | 4-benzyl-6-[2-bromo-5-((2S,3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine | 1.10 g | C(C1=CC=CC=C1)N1CCOC2=C1C=C(C=C2)CC2=C(C=CC(=C2)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)COCC2=CC=CC=C2)Br | C56H54BrNO6
